US06048885
Dichloroethane (50 ml), thionyl chloride (6.54 g, 0.055 mol) and N,N-dimethylformamide (0.25 ml) were added to 2-phenoxymethylbenzoic acid (11.41 g, 0.05 mol), and the mixture was stirred at 80° C. for 2 hours. After completion of the reaction, the mixture was concentrated under reduced pressure, and the residue was dissolved in dichloromethane (25 ml). The solution was added to a mixture of ethoxyamine hydrochloride (5.85 g, 0.06 mol), pyridine (9.89 g, 0.125 mol) and dry dichloromethane (50 ml) under ice-cooling over 20 minutes, and then the resulting mixture was stirred at room temperature for 2 hours. After completion of the reaction, water (200 ml) was added, adjusted to pH<2 with conc. hydrochloric acid, and extracted with dichloromethane. The dichloromethane layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Acetonitrile (150 ml), triphenylphosphine (20.98 g, 0.08 mol) and carbon tetrachloride (24.61 g, 0.16 mol) were added to the residue, and the mixture was stirred under reflux for 1.5 hours. After completion of the reaction, the mixture was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give α-ethoxyimino-2-phenoxymethylbenzyl chloride (13.51 g, 93.2%) as a colorless oil.

reactant | Dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
reactant | thionyl chloride | 0.055 mol, 6.54 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-phenoxymethylbenzoic acid | 0.05 mol, 11.41 g | O(C1=CC=CC=C1)CC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | ethoxyamine hydrochloride | 0.06 mol, 5.85 g | Cl.C(C)ON
reactant | pyridine | 0.125 mol, 9.89 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
reactant | triphenylphosphine | 0.08 mol, 20.98 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 0.16 mol, 24.61 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | Acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 0.25 ml | CN(C=O)C | C3H7NO
product | α-ethoxyimino-2-phenoxymethylbenzyl chloride | 13.51 g, 93.2% | C(C)ON=C(C1=C(C=CC=C1)COC1=CC=CC=C1)Cl | C16H16ClNO2
